.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=25e-6 L=1e-6
M2 net_2 in2 net_1 net_1 pmos W=25e-6 L=1e-6
M3 net_0 bias_n_1b source_nmos source_nmos nmos W=25e-6 L=1e-6
M4 net_4 ibias net_0 net_0 nmos W=25e-6 L=1e-6
M5 net_2 bias_n_1b source_nmos source_nmos nmos W=25e-6 L=1e-6
M6 outfirststage ibias net_2 net_2 nmos W=25e-6 L=1e-6
M7 net_6 net_4 source_pmos source_pmos pmos W=1e-6 L=1e-6
M8 net_4 bias_p_3 net_6 net_6 pmos W=1e-6 L=1e-6
M9 net_8 net_4 source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 outfirststage bias_p_3 net_8 net_8 pmos W=1e-6 L=1e-6
M11 net_9 net_9 source_pmos source_pmos pmos W=1e-6 L=1e-6
M12 net_1 net_10 net_9 net_9 pmos W=1e-6 L=1e-6
M13 out outfirststage source_pmos source_pmos pmos W=1e-6 L=1e-6
M14 net_11 bias_n_1b source_nmos source_nmos nmos W=25e-6 L=1e-6
M15 out ibias net_11 net_11 nmos W=25e-6 L=1e-6
M16 bias_n_1b bias_n_1b source_nmos source_nmos nmos W=25e-6 L=1e-6
M17 ibias ibias bias_n_1b bias_n_1b nmos W=25e-6 L=1e-6
M18 net_10 net_10 bias_p_2m bias_p_2m pmos W=1e-6 L=1e-6
M19 bias_p_2m net_9 source_pmos source_pmos pmos W=1e-6 L=1e-6
M20 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=4e-6
M21 net_10 bias_n_1b source_nmos source_nmos nmos W=25e-6 L=1e-6
M22 bias_p_3 bias_n_1b source_nmos source_nmos nmos W=25e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
